US04166115
A 2 N aqueous solution of sodium hydroxide (14 ml.) was added with stirring at ambient temperature to a solution of methyl 2-methoxyimino-2-(3-nitro-4-hydroxyphenyl)acetate (syn isomer) (3.5 g.) in methanol (70 ml.) and the mixture was stirred for 60 hours at ambient temperature. The reaction mixture was concentrated to dryness at 40° C. under reduced pressure and the residue was dissolved in water. The solution was washed with ethyl acetate, adjusted to pH 1 with 10% hydrochloric acid under ice-cooling and extracted with ethyl acetate. The extract was back-extracted with a saturated sodium bicarbonate aqueous solution. The aqueous extract was adjusted to pH 1 with conc. hydrochloric acid under ice-cooling and extracted with ethyl acetate. The extract was washed with ice-water and dried over magnesium sulfate. The solvent was concentrated to dryness at 40° C. under reduced pressure to give yellow crystals of 2-methoxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid (syn isomer) (3.2 g.), mp 142° to 143° C. (dec.).

reactant | sodium hydroxide | 14 ml | [OH-].[Na+]
reactant | methyl 2-methoxyimino-2-(3-nitro-4-hydroxyphenyl)acetate | 3.5 g | CON=C(C(=O)OC)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H10N2O6
solvent | methanol | 70 ml | CO | CH4O
product | 2-methoxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid | 3.2 g | CON=C(C(=O)O)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C9H8N2O6
